US07199147B2
Under nitrogen, N-[cis-3-[(4-methoxy-1H-indazol-5-yl)oxy]cyclohexyl]propanamide (141 mg, 0.444 mmol) was dissolved in tetrahydrofuran (7 ml), followed by adding thereto lithium aluminum hydride (84 mg, 2.22 mmol), and the resulting mixture was stirred with heating under reflux for about 2 hours. Under ice-cooling, the reaction solution was diluted with tetrahydrofuran, and water (84 μl) was added thereto and stirred, and then a 4N-aqueous sodium hydroxide solution (84 μl) and water (250 μl) were added thereto and stirred. The solid was filtered off and the solvent was distilled off under reduced pressure. The resulting concentration residue was purified by a silica gel column chromatography (eluent: acetonitrile/aqueous ammonia=100/0, 100/2, 100/5) to obtain N-[cis-3-[(4-methoxy-1H-indazol-5-yl)oxy]cyclohexyl]-N-propylamine (57 mg, yield 42.3%) as colorless tar.

reactant | N-[cis-3-[(4-methoxy-1H-indazol-5-yl)oxy]cyclohexyl]propanamide | 0.444 mmol, 141 mg | COC1=C2C=NNC2=CC=C1O[C@H]1C[C@H](CCC1)NC(CC)=O | C17H23N3O3
reactant | lithium aluminum hydride | 2.22 mmol, 84 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 84 μl | [OH-].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | 84 μl | O | H2O
solvent | water | 250 μl | O | H2O
product | N-[cis-3-[(4-methoxy-1H-indazol-5-yl)oxy]cyclohexyl]-N-propylamine | 57 mg, yield 42.3% | COC1=C2C=NNC2=CC=C1O[C@H]1C[C@H](CCC1)NCCC | C17H25N3O2
